US04434167
6.0 g N-benzoyl-N'-(4-methoxy-5-pyrimidyl)-thiourea are dissolved in 120 ml sodium ethylate solution (0.8 g sodium). After 1 hour, the solution is neutralized with diluted hydrochloric acid. The mixture is concentrated and the residue is washed with water and recrystallized from a methanol/water mixture. 2.3 g N-(4-methoxy-5-pyrimidyl)-thiourea having a melting point of 182° to 183° C. (decomp.) are obtained.

reactant | N-benzoyl-N'-(4-methoxy-5-pyrimidyl)-thiourea | 6.0 g | C(C1=CC=CC=C1)(=O)NC(=S)NC=1C(=NC=NC1)OC | C13H12N4O2S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium ethylate solution | 120 ml, 0.8 g | CC[O-].[Na+]
product | N-(4-methoxy-5-pyrimidyl)-thiourea | 2.3 g | COC1=NC=NC=C1NC(=S)N | C6H8N4OS
